US07652049B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-5′-isopropyl-2′-methoxy-4-(methylthio)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one
To a solution (4S,5R)-3-[(4-amino-4′-fluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one (200 mg, 0.34 mmol) in methyl disulfide (2 mL) was added tert-butyl nitrite (70 mg, 0.68 mmol). The resulting mixture was stirred at 80° C. for 30 min. An aliquot indicated completion of the reaction. The titled compound was obtained as a glassy material after two preparative TLC plates using respectively 20% EtOAc in hexanes and 10% EtOAc in dichloromethane as the eluent. LC-MS: 616.21 (M+1)+. 1H NMR (CDCl3, 500 MHz) a 1:1 mixture of rotamers δ 7.84 (s, 1H), 7.67 (s, 2H), 7.35 (s, 0.5H), 7.22-7.28 (m, 1.5H), 7.12-7.19 (m, 1H), 6.94-7.02 (m, 1H), 6.61-6.68 (m, 1H), 5.55 (d, J=8.0 Hz, 0.5H), 5.31 (d, J=9.5 Hz, 0.5H), 4.85 (d, J=16.0 Hz, 0.5H), 4.83 (d, J=15.5 Hz, 0.5H), 3.99 (d, J=15.5 Hz, 0.5H), 3.69-3.81 (m, 4.5H), 3.12-3.24 (m, 1H), 2.54, (s, 1.5H), 2.53 (s, 1.5H), 1.11-1.27 (m, 6H), 0.50 (d, J=6.5 Hz, 1.5H), 0.31 (d, J=7.0 Hz, 1.5H).

reactant | (4S,5R)-3-[(4-amino-4′-fluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | 0.34 mmol, 200 mg | NC1=CC(=C(C=C1)C1=C(C=C(C(=C1)C(C)C)F)OC)CN1C(O[C@@H]([C@@H]1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C29H27F7N2O3
reactant | tert-butyl nitrite | 0.68 mmol, 70 mg | N(=O)OC(C)(C)C | C4H9NO2
reactant | methyl disulfide | 2 mL | CSSC | C2H6S2
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-5′-isopropyl-2′-methoxy-4-(methylthio)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)SC)C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C30H28F7NO3S
